US07122570B2
3-[[(9H-Fluoren-9-ylmethoxy)carbonyl]amino]-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic Acid I
26 mmol (5.8 g) of 3-amino-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid in 26 ml of 1N NaOH and 26 mmol (8.76 g) of Fmoc-ONSu in 28 ml of acetonitrile are combined at room temperature and diluted with 130 ml of acetonitrile/H2O 1:1. After two hours, the pH is readjusted to 9 (1.5 ml) with NEt3 and stirred overnight at room temperature. Then, another 6.3 g (18.7 mmol) of Fmoc-ONSu, dissolved in 19 ml of acetonitrile, is added and stirred for another two hours while the pH is monitored. After distillative removal of the acetonitrile, it is acidified with 0.01 M HCl and extracted with ethyl acetate. The extract is washed neutral, dried with Na2SO4 and spun in until a dry state is reached. Recrystallization is carried out from ether/hexane. Yield: 10.7 g.

reactant | 3-amino-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 26 mmol, 5.8 g | NC1(CCC=2NC3=CC=CC=C3C2C1)C(=O)O | C13H14N2O2
reactant | Fmoc-ONSu | 26 mmol, 8.76 g | C1CC(=O)N(C1=O)OC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24 | C19H15NO5
reactant | NEt3 | CCN(CC)CC | C6H15N
reactant | Fmoc-ONSu | 18.7 mmol, 6.3 g | C1CC(=O)N(C1=O)OC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24 | C19H15NO5
solvent | NaOH | 1N, 26 ml | [OH-].[Na+]
solvent | acetonitrile | 28 ml | C(C)#N | C2H3N
solvent | acetonitrile H2O | 130 ml | C(C)#N.O
solvent | acetonitrile | 19 ml | C(C)#N | C2H3N
product | 3-[[(9H-Fluoren-9-ylmethoxy)carbonyl]amino]-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic Acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1(CCC=2NC3=CC=CC=C3C2C1)C(=O)O | C28H24N2O4
